US06809110B2
In analogy to the procedure described in example 1 d], [rac]-2-ethoxy-3-(3-fluoro-4-hydroxy-phenyl)-propionic acid ethyl ester (example 7 a]) was reacted with 2-[2-(4-trifluoromethyl-phenyl)-thiazol-4-yl]-ethanol (prepared from 4-chloromethyl-2-(4-trifluoromethyl-phenyl)-thiazole (example 18 a] and 4 a]) in analogy to the sequence described in examples 13 a] to 13 d]) in tetrahydrofuran in the presence of triphenylphosphine and DEAD (diethyl azodicarboxylate) to yield [rac]-2-ethoxy-3-(3-fluoro-4-{2-[2-(4-trifluoromethyl-phenyl)-thiazol-4-yl]-ethoxy}-phenyl)-propionic acid ethyl ester, which was further saponified in analogy to the procedure described in example 4 e], to yield [rac]-2-ethoxy-3-(3-fluoro-4-{2-[2-(4-trifluoromethyl-phenyl)-thiazol-4-yl]-ethoxy}-phenyl)-propionic acid as a colorless gum.

reactant | [rac]-2-ethoxy-3-(3-fluoro-4-hydroxy-phenyl)-propionic acid ethyl ester | C(C)OC(C(CC1=CC(=C(C=C1)O)F)OCC)=O | C13H17FO4
reactant | 2-[2-(4-trifluoromethyl-phenyl)-thiazol-4-yl]-ethanol | FC(C1=CC=C(C=C1)C=1SC=C(N1)CCO)(F)F | C12H10F3NOS
reactant | 4-chloromethyl-2-(4-trifluoromethyl-phenyl)-thiazole | ClCC=1N=C(SC1)C1=CC=C(C=C1)C(F)(F)F | C11H7ClF3NS
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DEAD | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | [rac]-2-ethoxy-3-(3-fluoro-4-{2-[2-(4-trifluoromethyl-phenyl)-thiazol-4-yl]-ethoxy}-phenyl)-propionic acid ethyl ester | C(C)OC(C(CC1=CC(=C(C=C1)OCCC=1N=C(SC1)C1=CC=C(C=C1)C(F)(F)F)F)OCC)=O | C25H25F4NO4S
